US08404677B2
8-bromo-2-(methylthio)-4-(3-(trifluoromethyl)phenylamino)pyrido[4,3-d]pyrimidin-5(6H)-one
A 20 mL reaction vessel was charged with 2-(methylthio)-4-(3-(trifluoromethyl)phenylamino)pyrido[4,3-d]pyrimidin-5(6H)-one (135 mg, 0.38 mmol), and N-bromosuccinimide (68 mg, 0.38 mmol) in 7 mL dry DMF. The reaction mixture was stirred at room temperature for 2 hours. The solvent was removed under reduced pressuring yielding yellow residue. The residue was recrystallized from acetonitrile providing yellow solid (100 mg, 74%). MS m/z: 431, 433 (M+H)+.

reactant | 2-(methylthio)-4-(3-(trifluoromethyl)phenylamino)pyrido[4,3-d]pyrimidin-5(6H)-one | 0.38 mmol, 135 mg | CSC=1N=C(C2=C(N1)C=CNC2=O)NC2=CC(=CC=C2)C(F)(F)F | C15H11F3N4OS
reactant | N-bromosuccinimide | 0.38 mmol, 68 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 8-bromo-2-(methylthio)-4-(3-(trifluoromethyl)phenylamino)pyrido[4,3-d]pyrimidin-5(6H)-one | BrC1=CNC(C2=C1N=C(N=C2NC2=CC(=CC=C2)C(F)(F)F)SC)=O | C15H10BrF3N4OS
